### PR TITLE
feat: prove correctness of `same_val_zero_1_local`

### PR DESCRIPTION
**Pull request by osmanyasar05**
Prove correctness of the `same_val_zero_1_local` combine pattern.

### CODE REVIEW

File: Veir/Passes/InstructionSelection/RISCV64.lean [hunk 1]
```diff
@@ -397,6 +397,20 @@ def constant (rewriter : PatternRewriter OpCode) (op : OperationPtr)
...
+    Option (WfIRContext OpCode × Option (Array OperationPtr × Array ValuePtr)) := do
+  let some (x, x1, _props) := matchXor op ctx | return (ctx, none)
+  if x != x1 then return (ctx, none)
+  let type := ((op.getResult 0).get! ctx.raw).type
+  let .integerType type' := type.val | return (ctx, none)
+  let cstProp := LLVMConstantProperties.mk (.integer (IntegerAttr.mk 0 type'))
+  let (ctx, newOp) ← WfRewriter.createOp! ctx (.llvm .mlir__constant) #[type] #[]
+      #[] #[] cstProp none
+  some (ctx, some (#[newOp], #[newOp.getResult 0]))
+
```
Comment (tobiasgrosser) [inline Veir/Passes/InstructionSelection/RISCV64.lean]: Should be added to the lists of rewrites?

File: Veir/Passes/RISCVCombines/RewriterProofs/MIRSameValZero.lean [hunk 2]
```diff
@@ -0,0 +1,178 @@
...
+
+/-- The Layer-0 data refinement: `xor x x` (poison when `x` is poison, else `0`) is refined by the
+constant `0`. When `x` is poison the source poison is refined by any value; otherwise both sides are
+`0`. -/
+theorem xor_self_isRefinedBy_constant_zero {w : Nat} (x : Data.LLVM.Int w) :
+    Data.LLVM.Int.xor x x ⊒ Data.LLVM.Int.constant w 0 := by
+  rw [Data.LLVM.Int.isRefinedBy_iff]
+  refine ⟨fun _ => Data.LLVM.Int.isPoison_constant _, fun hnp _ => ?_⟩
+  rw [Data.LLVM.Int.getValue_xor _ _ hnp, Data.LLVM.Int.getValue_constant]
+  simp
```
Comment (tobiasgrosser) [inline Veir/Passes/RISCVCombines/RewriterProofs/MIRSameValZero.lean]: This should use:

```lean
veir_bv_decide
```

Check the previous PRs.

File: Veir/Passes/InstructionSelection/RISCV64.lean (hunk 1 above)
Comment (tobiasgrosser) [reply Veir/Passes/InstructionSelection/RISCV64.lean]: Also, does this need an MLIR-level test case?

Comment (osmanyasar05) [reply Veir/Passes/InstructionSelection/RISCV64.lean]: added test, and registered it to a pass

File: Veir/Passes/RISCVCombines/RewriterProofs/MIRSameValZero.lean (hunk 2 above)
Comment (osmanyasar05) [reply Veir/Passes/RISCVCombines/RewriterProofs/MIRSameValZero.lean]: it uses `veir_bv_decide` now

**Review by tobiasgrosser — COMMENTED** [review]
This looks great now, but we need to fix the warnings that break the build before this can be merged.
